US07579332B2
[2-(tert-Butyl-diphenyl-silanyloxymethyl)-but-2-enyloxymethyl]-phosphonic acid diisopropyl ester
To a stirred solution of 2-(tert-Butyl-diphenyl-silanyloxymethyl)-but-2-en-1-ol (see: J. Org. Chem. 58, 2151-2161, 1993), (660 mg (1.94 mmol)) in anhydrous DMF was added Magnesium t-butoxide 660 mg (3.88 mmol) followed by isopropylphosphonate tosylate 1.2 g (2.91 mmol). The reaction was stirred under Ar at 70° C. for 16 h, until the reaction was complete by TLC. Solvents were removed in vacuo and the residue (yellow gum) resuspended in EtOAc. Saturated NH4Cl— was added and the reaction extracted with EtOAc (2×40 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (gradient elution, hexanes/ethyl acetate, 9:1 to 2:3) yielded the title compound 674 mg (1.3 mmol; 67% yield).

reactant | 2-(tert-Butyl-diphenyl-silanyloxymethyl)-but-2-en-1-ol | C(C)(C)(C)[SiH2]OC(C(CO)=CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H28O2Si
reactant | Magnesium t-butoxide | 3.88 mmol, 660 mg | CC(C)([O-])C.[Mg+2].CC(C)([O-])C
reactant | isopropylphosphonate tosylate | 2.91 mmol, 1.2 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C)(C)P(O)(O)=O
solvent | DMF | CN(C)C=O | C3H7NO
product | [2-(tert-Butyl-diphenyl-silanyloxymethyl)-but-2-enyloxymethyl]-phosphonic acid diisopropyl ester | 1.3 mmol, 674 mg, 67% yield | C(C)(C)OP(OC(C)C)(=O)COCC(=CC)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H43O5PSi
